US07153997B2
Boron trifluoride dimethyl sulfide (1.48 mL, 13.7 mmol) was added at 4° C. to a stirred solution of methyl-N-[3,5-dichloro-4-(5-isopropyl-4-methoxy-3-methylphenoxy)benzoyl]glycine (155 mg, 0.352 mmol) and dichloromethane (15 mL). The reaction mixture was stirred at room temperature for 24 hours and then treated with ice-water (30 mL), extracted with ethyl acetate and concentrated. The residue was purified on column (MPLC, silica gel, chloroform/methanol/acetic acid, gradient elution from 1/0/0 to 95/5/0.5) to give 110 mg (76%) of N-[3,5-dichloro-4-(4-hydroxy-3-isopropyl-5-methylphenoxy)benzoyl]glycine. LC-MS (ES−1): m/z 410.

reactant | Boron trifluoride dimethyl sulfide | 13.7 mmol, 1.48 mL | CSC.B(F)(F)F
reactant | methyl-N-[3,5-dichloro-4-(5-isopropyl-4-methoxy-3-methylphenoxy)benzoyl]glycine | 0.352 mmol, 155 mg | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C(=C1)C(C)C)OC)C)Cl)=O | C21H23Cl2NO5
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-[3,5-dichloro-4-(4-hydroxy-3-isopropyl-5-methylphenoxy)benzoyl]glycine | 110 mg, 76% | ClC=1C=C(C(=O)NCC(=O)O)C=C(C1OC1=CC(=C(C(=C1)C)O)C(C)C)Cl | C19H19Cl2NO5
